US05506239
0.49 ml of 3-chloropropanesulfonyl chloride was dropwise added, at 0° C., to a solution of 1.19 g of 1-(2-cyclooctylaminoethyl)-4-methoxymethoxypiperidine and 0.67 ml of triethylamine in 10 ml of dichloromethane. The mixture was stirred at room temperature for 1 day. The reaction mixture was washed with water and dried with magnesium sulfate. The solvent was removed by distillation. The resulting residue was purified by silica gel column chromatography (eluant: 2% methanol/dichloromethane) to obtain 1.2 g of 1-{2-[N-(3-chloropropylsulfonyl)-N-cyclooctylamino]-ethyl}-4-methoxymethoxypiperidine.

reactant | 3-chloropropanesulfonyl chloride | 0.49 ml | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
reactant | 1-(2-cyclooctylaminoethyl)-4-methoxymethoxypiperidine | 1.19 g | C1(CCCCCCC1)NCCN1CCC(CC1)OCOC | C17H34N2O2
reactant | triethylamine | 0.67 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-{2-[N-(3-chloropropylsulfonyl)-N-cyclooctylamino]-ethyl}-4-methoxymethoxypiperidine | 1.2 g | ClCCCS(=O)(=O)N(C1CCCCCCC1)CCN1CCC(CC1)OCOC | C20H39ClN2O4S
